US06900202B2
Then, a mixture of 228 mg (1 mmol) of 3-(6-chloro-3-pyridyl)methyl-2-iminothiazolidine, 180 mg (1.05 mmol) of benzylbromide and 276 mg (2 mmol) of anhydrous potassium carbonate in 10 ml of acetonitrile was heated for 3 hours at 90° C. under refluxing. After the reaction mixture was cooled to the room temperature, the solvent was removed under reduced pressure. The resulting residue was mixed with dichloromethane and saturated sodium hydrogen carbonate aqueous solution, and the organic layer was separated. The water layer was extracted with dichloromethane, and combined organic layer was dried over magnesium sulfate. The solvent was removed under reduced pressure and the resulting residue was purified by aminopropyl-coated silica gel (Chromatorex NH-type; Fuji Silysia Chemical Ltd.) column chromatography (eluent; hexane:ethyl acetate=2:1) to give 217 mg (yield; 68.3%) of 2-benzylimino-3-(6-chloro-3-pyridyl)methylthiazolidine as colorless oil. This product was dissolved in methanol and to this solution was added 79 mg (0.681 mmol) of fumaric acid, and the mixture was concentrated under reduced pressure. The resulting residue was treated with acetonitrile to give crystalline. The crystalline was collected by filtration and dried in vacuum to give 271 mg of fumarate of the title Compound 14.

reactant | 3-(6-chloro-3-pyridyl)methyl-2-iminothiazolidine | 1 mmol, 228 mg | ClC1=CC=C(C=N1)CN1C(SCC1)=N | C9H10ClN3S
reactant | benzylbromide | 1.05 mmol, 180 mg | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 2 mmol, 276 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 2-benzylimino-3-(6-chloro-3-pyridyl)methylthiazolidine | 217 mg, yield; 68.3% | C(C1=CC=CC=C1)N=C1SCCN1CC=1C=NC(=CC1)Cl | C16H16ClN3S
